US05393755
1-Hydroxy-8a-nitrodecahydronapthalene hydrochloride
To a solution of 8a-nitrodecahydronapthalen-1-one [P. Dampawan and W. W. Zajac Jr. Synthesis, 545, 1983] (1.2 g, 6.1 mmol) in MeOH (10 ml) at 0° C., add sodium borohydride (0.09 g) and warm to RT. After 0.5 hr, add ether and 1N HCl. Dry and concentrate the organic layer. Dissolve the residue in EtOH (50 ml) and add this to Raney Nickel (1.2 g, wet weight) and place under 60 psi of H2 at 55° C. After 24 hr., filter though celite and concentrate to dryness. Dissolve the resultant oil in Et2O add dry HCl in MeOH and collect the title compound as a colorless precipitate EI MS: M+=169.

reactant | 8a-nitrodecahydronapthalen-1-one | 6.1 mmol, 1.2 g | [N+](=O)([O-])C12CCCCC2CCCC1=O | C10H15NO3
reactant | sodium borohydride | 0.09 g | [BH4-].[Na+]
reactant | ether | CCOCC | C4H10O
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 1-Hydroxy-8a-nitrodecahydronapthalene hydrochloride | Cl.OC1CCCC2CCCCC12[N+](=O)[O-] | InChI=1S/C10H17NO3.ClH/c12-9-6-3-5-8-4-1-2-7-10(8,9)11(13)14;/h8-9,12H,1-7H2;1H
